US06969728B2
Step 1) Preparation of 3-(4-Isopropyl-phenoxy)-pentane-2,4-dione.
To a refluxing solution of 4-isopropylphenol (0.548 g, 4.02 mmol) and rhodium(II) acetate (ca. 15 mgs) in benzene (10 mL) was added a solution of 3-diazo-pentane-2,4-dione (0.507 g, 4.02 mmol) in benzene (20 mL) over 40 minutes. The reaction mixture was allowed to cool to room temperature and was concentrated to afford a green oil. Flash chromatography over silica (ethyl acetate/hexanes) provided 0.371 g (39%) of the product as a white solid: 1H NMR (CDCl3) δ 14.4 (s, 1H), 7.15 (d, J=8.6 Hz, 2H), 6.82 (d, J=8.6 Hz, 2H), 2.87 (sept, J=7.0 Hz, 1H), 2.04, (s, 6H), 1.23 (d, J=7.0 Hz, 6H) ppm.

reactant | 4-isopropylphenol | 4.02 mmol, 0.548 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 3-diazo-pentane-2,4-dione | 4.02 mmol, 0.507 g | [N+](=[N-])=C(C(C)=O)C(C)=O | C5H6N2O2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
catalyst | rhodium(II) acetate | ca. 15 mgs | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 3-(4-Isopropyl-phenoxy)-pentane-2,4-dione | 0.371 g, 39% | C(C)(C)C1=CC=C(OC(C(C)=O)C(C)=O)C=C1 | C14H18O3
